US05576343
At room temperature, 1 g of 4-[2-(5-cyano-2-benzofuranyl)ethyl]benzoic acid and 578 mg of 1-hydroxybenzotriazole were dissolved in 100 ml of dichloromethane, followed by the addition of 780 mg of 1,3-dicyclohexylcarbodiimide and by subsequent stirring at the same temperature for 3 hours. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a chloroform/ethanol mixture as an elution solvent, and the thus purified product was crystallized from a benzene/n-hexane mixture. In this way, 1.1 g of 2-[2-[4-[[(1-benzotriazolyl)oxy]carbonyl]phenyl]ethyl]-5-benzofurancarbonitrile was obtained in a powdery form.

reactant | 4-[2-(5-cyano-2-benzofuranyl)ethyl]benzoic acid | 1 g | C(#N)C=1C=CC2=C(C=C(O2)CCC2=CC=C(C(=O)O)C=C2)C1 | C18H13NO3
reactant | 1-hydroxybenzotriazole | 578 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 780 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[2-[4-[[(1-benzotriazolyl)oxy]carbonyl]phenyl]ethyl]-5-benzofurancarbonitrile | 1.1 g | N1(N=NC2=C1C=CC=C2)OC(=O)C2=CC=C(C=C2)CCC=2OC1=C(C2)C=C(C=C1)C#N | C24H16N4O3
